### PR TITLE
feat: define `Dyadic.toIGame`

### PR DESCRIPTION
**Pull request by vihdzp**
We define the canonical map from the dyadic numbers into `IGame` and prove some basic properties.

This PR really is more about the dyadic rational numbers than about game theory. Since Mathlib doesn't have the dyadic rationals, we have to set up a lot of stuff on our own. Note the conscious decision not to use `Localization.Away 2` - at this point, using it would be much more trouble than it'd be worth.

### CODE REVIEW

File: CombinatorialGames/Surreal/Numeric.lean [hunk 1]
```diff
@@ -0,0 +1,268 @@
...
+theorem toIGame_neg (x : Dyadic) : toIGame (-x) = -toIGame x := by
+  unfold toIGame
+  dsimp
+  split_ifs with h
+  · simp
+  · simp only [lower_neg, upper_neg, IGame.neg_ofSets, Set.neg_singleton, IGame.ofSets_inj,
+      Set.singleton_eq_singleton_iff]
+    have := den_upper_lt h
+    have := den_lower_lt h
+    exact ⟨toIGame_neg _, toIGame_neg _⟩
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Numeric.lean]:
```suggestion
  · have := den_upper_lt h
    have := den_lower_lt h
    simpa using ⟨toIGame_neg _, toIGame_neg _⟩
```

File: CombinatorialGames/Surreal/Numeric.lean [hunk 2]
```diff
@@ -0,0 +1,268 @@
...
+  obtain ⟨n, rfl⟩ := hy
+  have := Rat.den_dvd x (2 ^ n)
+  rw [dvd_prime_pow Int.prime_two] at this
+  obtain ⟨m, -, hm⟩ := this
+  obtain hm | hm := Int.associated_iff.1 hm
+  · use m
+    rw [Rat.mkRat_eq_divInt, Nat.cast_pow, Nat.cast_ofNat, ← Nat.cast_inj (R := ℤ), hm]
+    simp
+  · rw [← Nat.cast_ofNat, ← Nat.cast_pow 2 m, Nat.cast_eq_neg_cast] at hm
+    aesop
```
Comment (tristan-f-r) [inline CombinatorialGames/Surreal/Numeric.lean]:
```suggestion
    simp_all
```

File: CombinatorialGames/Surreal/Numeric.lean (hunk 1 above)
Comment (tristan-f-r) [reply CombinatorialGames/Surreal/Numeric.lean]: (If `simpa` was avoided here for good reason, at the very least that long `simp only` call should be `simp_rw`)
